US06395737B1
d) N-Benzyl-2-(R,S)-(4-cyano-benzyl)-N′-{[(4-cyano-cyclohexylmethyl)-carbamoyl]-(S)-cyclohexyl-methyl}-N-methyl-malonamide
To [2-(R,S)-(Benzyl-methyl-carbamoyl)-3-(4-cyano-phenyl)-propionylamino]-(S)-cyclohexyl-acetic acid (910 mg, 1.97 mmol) in dimethylformamide (150 ml) were added HATU (825 mg, 2.17 mmol) and collidine (263 mg, 2.17 mmol) at 0° C. After 30 minutes at 0° C. 4-aminomethyl-cyclohexanecarbonitrile (272 mg, 1.97 mmol) was added. The mixture was stirred for 1 hour, then allowed to warm to room temperature, and stand at room temperature for 72 hours. After evaporation the residue was stirred with Na2CO3 solution and the precipitate was sucked off to yield 1.18 g of the desired product which was used for further reactions without purification.

reactant | [2-(R,S)-(Benzyl-methyl-carbamoyl)-3-(4-cyano-phenyl)-propionylamino]-(S)-cyclohexyl-acetic acid | 1.97 mmol, 910 mg | C(C1=CC=CC=C1)N(C(=O)C(C(=O)N[C@H](C(=O)O)C1CCCCC1)CC1=CC=C(C=C1)C#N)C | C27H31N3O4
reactant | HATU | 2.17 mmol, 825 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | collidine | 2.17 mmol, 263 mg | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | 4-aminomethyl-cyclohexanecarbonitrile | 1.97 mmol, 272 mg | NCC1CCC(CC1)C#N | C8H14N2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | N-Benzyl-2-(R,S)-(4-cyano-benzyl)-N′-{[(4-cyano-cyclohexylmethyl)-carbamoyl]-(S)-cyclohexyl-methyl}-N-methyl-malonamide | 1.18 g | C(C1=CC=CC=C1)N(C(C(C(=O)N[C@@H](C1CCCCC1)C(NCC1CCC(CC1)C#N)=O)CC1=CC=C(C=C1)C#N)=O)C | C35H43N5O3
